US07157464B2
Synthesis of 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester
Protocol T was followed using 5-Thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1.5/1) afforded the title compound. 1H NMR (400 MHz, CDCl3): 7.32–7.36 (m, 1H), 7.22–7.26 (m, 1H), 7.08 (s, 1H), 7.02–7.08 (dd, 1H), 6.96–7.2 (m, 2H), 6.86–6.92 (m, 2H), 4.3–4.4 (q, 2H), 3.52–3.58 (m, 4H), 3.05–3.25 (m, 4H), 1.3–1.42 (m, 3H). 13C NMR (400 MHz, CDCl3): 164, 130, 126.8, 126.4, 120, 118.2, 115.4, 62.3, 54, 50.5, 42, 44.5, 14.6.

reactant | 5-Thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)C=1SC=CC1 | C10H10N2O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C=1SC=CC1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C22H23FN4O3S
